US06107324
N-[3-(4-bromo-1-methylpyrazol-3-yl)phenyl]-2-(2-fluorophenyl)acetamide
A mixture of 3-(3-aminophenyl)-4-bromo-1-methylpyrazole (30 mg, 0.12 mmol), 2-fluorophenylacetic acid (18 mg, 0.12 mmol), 1-hydroxybenzotriazole hydrate (16 mg, 0.12 mmol) and 2-(1H-benzotriazole-1-yl)-1,1,3,3-tetramethyluronium hexafluoro-phosphate (46 mg, 0.12 mmol) were dissolved in chloroform (1.5 ml). N,N-Diisopropylethylamine (0.02 ml, 0.13 mmol) was added and the mixture stirred at room temperature for 16 h. The reaction mixture was then poured into brine and the organic layer washed with further brine, dried over magnesium sulphate and then concentrated in vacuo. The crude product was purified by column chromatography (ethyl acetate-toluene, 1:1), giving the title compound (15 mg, 32%). Rf 0.52 (ethyl acetate-toluene, 1:1).

reactant | 3-(3-aminophenyl)-4-bromo-1-methylpyrazole | 0.12 mmol, 30 mg | NC=1C=C(C=CC1)C1=NN(C=C1Br)C | C10H10BrN3
reactant | 2-fluorophenylacetic acid | 0.12 mmol, 18 mg | FC1=C(C=CC=C1)CC(=O)O | C8H7FO2
reactant | 1-hydroxybenzotriazole hydrate | 0.12 mmol, 16 mg | O.ON1N=NC2=C1C=CC=C2
reactant | 2-(1H-benzotriazole-1-yl)-1,1,3,3-tetramethyluronium hexafluoro-phosphate | 0.12 mmol, 46 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | N,N-Diisopropylethylamine | 0.13 mmol, 0.02 ml | C(C)(C)N(C(C)C)CC | C8H19N
solvent | chloroform | 1.5 ml | C(Cl)(Cl)Cl | CHCl3
solvent | brine | [Cl-].[Na+].O
product | N-[3-(4-bromo-1-methylpyrazol-3-yl)phenyl]-2-(2-fluorophenyl)acetamide | 15 mg, 32% | BrC=1C(=NN(C1)C)C=1C=C(C=CC1)NC(CC1=C(C=CC=C1)F)=O | C18H15BrFN3O
